US03988444
A mixture of 6.2 g of 2,3,4,5,6,7-hexahydrobenzothiazoline-2-one, 8.4 g of potassium carbonate and 300 ml of acetone was refluxed for 1 hour and after the addition of 11.4 g of O,O-diethyl chlorothiophosphate thereto, the mixture was refluxed for another hour. The mixture was stirred at room temperature for 24 hours and was filtered to remove mineral salts. The filtrate was concentrated to dryness by distillation under reduced pressure and the residue was chromatographed over silica gel. Elution with an 8-2 cyclohexane-ethyl acetate mixture yielded 7.3 g of 2-(diethoxythiophosphoryloxy)-4,5,6,7-tetrahydrobenzothiazole having a refractive index of nD22 = 1.532.

reactant | 2,3,4,5,6,7-hexahydrobenzothiazoline-2-one | 6.2 g | S1C(NC2=C1CCCC2)=O | C7H9NOS
reactant | potassium carbonate | 8.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | O,O-diethyl chlorothiophosphate | 11.4 g | P(=S)(OCC)(OCC)Cl | C4H10ClO2PS
solvent | acetone | 300 ml | CC(=O)C | C3H6O
product | 2-(diethoxythiophosphoryloxy)-4,5,6,7-tetrahydrobenzothiazole | 7.3 g | C(C)OP(=S)(OCC)OC=1SC2=C(N1)CCCC2 | C11H18NO3PS2
